US07402606B2
(2S)-6-{[(benzyloxy)carbonyl]amino}-2-[(tert-butoxycarbonyl)amino]-1-({[(1R)-1-phenylethyl]amino}carbonyl)hexyl benzoate (28.0 g, 45.0 mmol) was dissolved in dioxane (200 mL), and a solution of lithium hydroxide (2.47 g, 174 mmol) in water (100 mL) was added. The resulting mixture was stirred for 24 h at room temperature. It was then diluted with ethyl acetate (500 mL), and washed with 1N hydrochloric acid (300 mL). The aqueous layer was back-extracted with two 100 mL portions of ethyl acetate. The extracts were then combined with the original ethyl acetate layer, washed with three 200 mL aliqouts of saturated aqueous sodium bicarbonate, followed by saturated aqueous sodium chloride (100 mL), and dried over magnesium sulfate. Volatiles were then removed under vacuum to afford tert-butyl (1S)-5-{[(benzyloxy)carbonyl]amino}-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate as a waxy light yellow solid (25.61 g, quantitative crude yield). 1H NMR (300 MHz, DMSO-d6) δ 7.98-7.88 (m, 1H); 7.68-7.63 (m) and 7.49-7.42 (m) total 1H, 7.35-7.10 (m, 10H); 6.31 (d, J=9 Hz) and 6.02 (d, J=9 Hz) total 1H, 5.62-5.53 (br s) and 5.53-5.42 (br s) total 1H, 4.94 (s, 2H), 4.91-4.83 (m, 1H); 3.87 (br s) and 3.79 (br s) total 1H, 3.72-3.58 (m, 1H); 2.99-2.76 (m, 2H); 1.47-1.10 (m, 18H). ES-LCMS m/z 514 (M+H).

reactant | (2S)-6-{[(benzyloxy)carbonyl]amino}-2-[(tert-butoxycarbonyl)amino]-1-({[(1R)-1-phenylethyl]amino}carbonyl)hexyl benzoate | 45.0 mmol, 28.0 g | C(C1=CC=CC=C1)(=O)OC([C@H](CCCCNC(=O)OCC1=CC=CC=C1)NC(=O)OC(C)(C)C)C(=O)N[C@H](C)C1=CC=CC=C1 | C35H43N3O7
reactant | lithium hydroxide | 174 mmol, 2.47 g | [OH-].[Li+]
solvent | dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | water | 100 mL | O | H2O
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (1S)-5-{[(benzyloxy)carbonyl]amino}-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)pentylcarbamate | C(C1=CC=CC=C1)OC(=O)NCCCC[C@@H](C(C(N[C@H](C)C1=CC=CC=C1)=O)O)NC(OC(C)(C)C)=O | C28H39N3O6
